US06630600B1
2-Ethoxy-3-(4-benzyloxy-2-nitrophenyl)propanoic acid methyl ester (1.5 g; 4.06 mmole) was dissolved in dichloromethane (8 ml) and dimethylsulfide (8 ml) was added. Boron trifluoride diethyl etherate (5.0 ml; 40.6 mmole) was added under stirring. The reaction mixture was stirred at room temperature for 4 hours and then poured into water and more dichloromethane was added. The phases were separated and the organic phase was washed with water and brine and dried with magnesium sulfate. Evaporation to remove the solvent gave 1.04 g (95% yield) of 2-ethoxy-3-(4-hydroxy-2-nitrophenyl)propanoic acid methyl ester.

reactant | 2-Ethoxy-3-(4-benzyloxy-2-nitrophenyl)propanoic acid methyl ester | 4.06 mmole, 1.5 g | COC(C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])OCC)=O | C19H21NO6
reactant | dimethylsulfide | 8 ml | CSC | C2H6S
reactant | Boron trifluoride diethyl etherate | 40.6 mmole, 5.0 ml | B(F)(F)F.CCOCC
reactant | water | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 2-ethoxy-3-(4-hydroxy-2-nitrophenyl)propanoic acid methyl ester | 1.04 g, 95% yield | COC(C(CC1=C(C=C(C=C1)O)[N+](=O)[O-])OCC)=O | C12H15NO6
